US06248738B1
A solution of 4-bromocinnamic acid (5.03 g, 22.2 mmol) in thionyl chloride (SOCl2) (15 mL) was stirred at 23° C. for 16 h, and then heated at reflux for a further 2 h. The solvents were evaporated in vacuo and the residue azeotroped with toluene (×3) to yield 4-bromocinnamoyl chloride as an orange-brown solid in quantitative yield.

reactant | 4-bromocinnamic acid | 22.2 mmol, 5.03 g | BrC1=CC=C(C=CC(=O)O)C=C1 | C9H7BrO2
reactant | thionyl chloride | 15 mL | S(=O)(Cl)Cl | Cl2OS
product | 4-bromocinnamoyl chloride | quantitative yield | BrC1=CC=C(C=CC(=O)Cl)C=C1 | C9H6BrClO
